US06887972B2
To a solution of 25.0 g of fluorene in 200 ml of THF at −78° C. was added dropwise 220 ml of 1.6 M butyllithium solution in hexane. The mixture was stirred at this temperature for 1 h and was then allowed to warm to 15° C. The temperature was cooled down to −78° C. again and 77.7 g of n-octyl bromide was added dropwise into the mixture. The solution was allowed to warm to room temperature and was stirred at room temperature for 12 h. The mixture was poured into water and was extracted with ether. The combined extracts were washed with water and brine and were dried over anhydrous magnesium sulphate. The solvent was removed by rotary evaporation. Distillation under reduced pressure gave 50 g of 9,9-dioctylfluorene as a pale yellow oil (212-214° C./2 Toor) (yield 85.2%).

reactant | fluorene | 25.0 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | butyllithium | 1.6 M, 220 ml | C(CCC)[Li]
reactant | n-octyl bromide | 77.7 g | C(CCCCCCC)Br | C8H17Br
reactant | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 9,9-dioctylfluorene | 50 g, yield 85.2% | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCCCCC | C29H42
